US04735959
4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzyl alcohol
Prepared from 4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid ethyl ester by lithium aluminum hydride reduction in tetrahydrofuran.

reactant | 4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C(C(=O)N)C(C)C1=C(C=CC=C1)N1CCCCC1)=O | C24H30N2O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzyl alcohol | N1(CCCCC1)C1=C(C=CC=C1)C(C)C(C1=CC=C(CO)C=C1)C(=O)N | C22H28N2O2
